US04812462
(S)-1,4,6,7-tetrahydro-2-bromo-6-(t-butyldimethylsilyloxymethyl)-N-methyl-N-phenyl-1-(phenylmethyl)-5H-imidazo[4,5-c]pyridine-5-carboxamide.
A mixture of 1.23 g of (S)-1,4,6,7-tetrahydro-6-(t-butyldimethylsilyloxymethyl)-N-methyl-N-phenyl-1-(phenylmethyl)-5H-imidazo[4,5-c]pyridine-5-carboxamide and 10 mL of methylene chloride is stirred at room temperature and 0.45 g of N-bromosuccinimide is added. The reaction mixture is stirred for 20 min and concentrated. The residue is purified by flash chromatography on silica gel eluting with a 50% ethyl acetate-hexane mixture. The desired fractions are combined and concentrated to afford the desired product as an oil; TLC (SiO2) 50% EtOHc/hexane, Rf =0.35.

reactant | (S)-1,4,6,7-tetrahydro-6-(t-butyldimethylsilyloxymethyl)-N-methyl-N-phenyl-1-(phenylmethyl)-5H-imidazo[4,5-c]pyridine-5-carboxamide | 1.23 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CC2=C(CN1C(=O)N(C1=CC=CC=C1)C)N=CN2CC2=CC=CC=C2 | C28H38N4O2Si
reactant | N-bromosuccinimide | 0.45 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-1,4,6,7-tetrahydro-2-bromo-6-(t-butyldimethylsilyloxymethyl)-N-methyl-N-phenyl-1-(phenylmethyl)-5H-imidazo[4,5-c]pyridine-5-carboxamide | BrC=1N(C2=C(CN([C@@H](C2)CO[Si](C)(C)C(C)(C)C)C(=O)N(C2=CC=CC=C2)C)N1)CC1=CC=CC=C1 | C28H37BrN4O2Si
